* C:\users\crossover\My Documents\Cambridge\Work\Projects\1A2_IEP\LTSpice_Exercises\190227_IEP_Ex1.asc
R1 Vload N001 100
R2 Vload 0 900
V1 N001 0 10
.op
.backanno
.end
